US08133882B2
250 mg of 3-amino-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinoline-4(1H)-one and 127 mg of 4-ethoxy-4-oxobutanoic acid were dissolved in 20 ml of DMF, and 170 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride and 160 mg of 1-hydroxybenzotriazole were added, followed by overnight stirring at room temperature. By adding water to the reaction mixture and collecting the insoluble materials by filtration, 220 mg of ethyl 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoate was obtained.

reactant | 3-amino-7-(cyclohexylamino)-1-cyclopentyl-6-fluoroquinoline-4(1H)-one | 250 mg | NC1=CN(C2=CC(=C(C=C2C1=O)F)NC1CCCCC1)C1CCCC1 | C20H26FN3O
reactant | 4-ethoxy-4-oxobutanoic acid | 127 mg | C(C)OC(CCC(=O)O)=O | C6H10O4
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 170 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 160 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 4-{[7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinolin-3-yl]amino}-4-oxobutanoate | 220 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)NC(CCC(=O)OCC)=O)=O)F | C26H34FN3O4
